US05166367
7-[3-[[(2,3-Dihydro-1,4-benzodioxin-2-yl)methyl]ethylamino]propoxyl-2H-1-benzopyran-2-one
N-Ethyl-2,3-dihydro-1,4-benzodioxin-2-methanamine (4.67 g, 24.2 mmole), 7-(3-bromopropoxy)coumarin (6.92 g, 24.4 mmole), and diisopropylethylamine (6.70 ml, 38.5 mmole) were combined in 300 ml of DMF and heated at 76° C. for 24 hours under a nitrogen atmosphere. The solvent was then removed in vacuum and replaced with dichloromethane. The mixture was washed with an equal volume of saturated aqueous sodium bicarbonate, dried over magnesium sulfate, filtered and concentrated in vacuum. The residue (10 g) was column chromatographed on 225 g of silica gel using 40% ethyl acetate/dichloromethane as eluant. The product-containing fractions were concentrated in vacuum and the residue crystallized from isopropanol with the addition of 30 ml of 4N isopropanolic HCl to give 4.94 g of the title compound as a white solid, monohydrochloride, m.p. 147°-152° C.

reactant | N-Ethyl-2,3-dihydro-1,4-benzodioxin-2-methanamine | 24.2 mmole, 4.67 g | C(C)NCC1COC2=C(O1)C=CC=C2 | C11H15NO2
reactant | 7-(3-bromopropoxy)coumarin | 24.4 mmole, 6.92 g | BrCCCOC1=CC=C2C=CC(OC2=C1)=O | C12H11BrO3
reactant | diisopropylethylamine | 38.5 mmole, 6.70 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | DMF | 300 ml | CN(C)C=O | C3H7NO
product | 3-[[(2,3-Dihydro-1,4-benzodioxin-2-yl)methyl]ethylamino]propoxyl-2H-1-benzopyran-2-one | 4.94 g | O1C(COC2=C1C=CC=C2)CN(CCCOC=2C(OC1=C(C2)C=CC=C1)=O)CC | C23H25NO5
